US07173129B2
Ex-37A: To a solution of 4-acetylbenzenesulfonamide (Ex-35A, 0.20 g, 1 mmol) and 2,4-dimethoxy-5-(1-methyl-1H-indol-2-yl)benzaldehyde (Ex-15A, 0.30 g, 1 mmol) in DMF (25 ml) was added lithium methoxide (4 ml, 1.0 M in methanol). The mixture was stirred at room temperature overnight. It was poured into water (50 ml) and acidified to pH=1 with 3 N HCl. The yellow precipitate was filtered, washed with water, and dried. Crystallization from EtOAc/hexanes gave 4-{3-[2,4-dimethoxy-5-(1-methyl-1H-indol-2-yl)phenyl]acryloyl}benzenesulfonamide (0.43 g, 90%) as a yellow solid, mp 148–150° C. 1H-NMR (300 MHz, CDCl3) δ 8.17 (d, J=16 Hz, 1H), 8.09 (d, J=9 Hz, 2H), 8.01 (d, J=9 Hz, 2H), 7.68 (s, 1H), 7.64 (d, J=8 Hz, 1H), 7.47 (d, J=16 Hz, 1H), 7.35 (d, J=8 Hz, 1H), 7.22–7.26 (m, 1H), 7.11–7.16 (m, 1H), 6.58 (s, 1H), 6.50 (s, 1H), 4.92 (brs, 2H), 4.02 (s, 3H), 3.90 (s, 3H), 3.58 (s, 3H). MS m/z=477 ([M+H]+, 100%).

reactant | 4-acetylbenzenesulfonamide | 1 mmol, 0.20 g | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)N | C8H9NO3S
reactant | 2,4-dimethoxy-5-(1-methyl-1H-indol-2-yl)benzaldehyde | 1 mmol, 0.30 g | COC1=C(C=O)C=C(C(=C1)OC)C=1N(C2=CC=CC=C2C1)C | C18H17NO3
reactant | lithium methoxide | 1.0 M, 4 ml | C[O-].[Li+]
reactant | HCl | 3 N | Cl | ClH
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | 4-{3-[2,4-dimethoxy-5-(1-methyl-1H-indol-2-yl)phenyl]acryloyl}benzenesulfonamide | 0.43 g, 90% | COC1=C(C=C(C(=C1)OC)C=1N(C2=CC=CC=C2C1)C)C=CC(=O)C1=CC=C(C=C1)S(=O)(=O)N | C26H24N2O5S
